US06753431B2
Synthesis of N-benzylacetamide
After completion of the reaction, 1% hydrochloric acid (23 g) was dropwide added at 10° C. or lower and after stirred for 30 minutes, settled and separated. The obtained organic layer was washed with 9% salt water (7 g) at 5 to 10° C., settled and separated. The obtained organic layer was washed with an aqueous 5% sodium hydrogen carbonate solution (11.8 g) at 15 to 30° C., settled and separated After that, the organic layer was washed with ion-exchange water (6 g) at 25 to 35° C., settled and separated. The obtained organic layer was evaporated to obtain a solution (10.04 g) of a desired pale yellowish transparent solution or white solid. The content was found 86.5% by gas chromatography analysis. The pure product yield was 8.68 g (yield 87.8% based on acetic acid). The content of impurities are as follows; diisobutylcarbonate: 2.0%, and N-isobutyloxycarbonyl)-benzylamine: 2.5%.

reactant | diisobutylcarbonate | C(C(C)C)OC(OCC(C)C)=O | C9H18O3
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-benzylacetamide | C(C1=CC=CC=C1)NC(C)=O | C9H11NO
